US04397750
In a procedure similar to that of Example 1, 2-amino-2-methylpropanol was reacted with γ-butyrolactone resulting in a 59% yield of N-(1,1-dimethyl-2-hydroxyethyl)-2-pyrrolidinone, b.p. 175°/21 torr, after two cycles. The material melted at 56°-58° with 13CNMR peaks shifted 176.1, 69.7, 58.7, 46.3, 32.9, 23.2 and 18.2 ppm from TMS. The elemental analyses agreed with the theoretical values for the expected compound.

reactant | 2-amino-2-methylpropanol | NC(CO)(C)C | C4H11NO
reactant | γ-butyrolactone | C1(CCCO1)=O | C4H6O2
product | N-(1,1-dimethyl-2-hydroxyethyl)-2-pyrrolidinone | 59% yield | CC(CO)(C)N1C(CCC1)=O | C8H15NO2
